US06815451B2
1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine
A mixture of 2-(3,4-dimethoxy-phenyl)-N-[3-(3,4-dimethoxy-phenyl)-propyl]-acetamide (6.16 g, 16.5 mmol) and POCl3 (4.95 mL, 54.1 mmol) in anhydrous acetonitrile (185 mL) is stirred at reflux for 4 h under nitrogen. After cooling, the reaction mixture is evaporated and the residue is dissolved in MeOH (125 mL). The solution is cooled to 0° C. and NaBH4 (4.31 g, 114 mmol) is added portionwise. After stirring at 0° C. for 2 h under nitrogen, the reaction mixture is poured into H2O and extracted three times with CH2Cl2. The combined organic extracts are washed with brine, dried over anhydrous MgSO4, filtered and concentrated to give a crude oil. Flash chromatography (CH2Cl2/MeOH: 9/1) yields the title compound as a yellow oil.

reactant | 2-(3,4-dimethoxy-phenyl)-N-[3-(3,4-dimethoxy-phenyl)-propyl]-acetamide | 16.5 mmol, 6.16 g | COC=1C=C(C=CC1OC)CC(=O)NCCCC1=CC(=C(C=C1)OC)OC | C21H27NO5
reactant | POCl3 | 54.1 mmol, 4.95 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaBH4 | 114 mmol, 4.31 g | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | acetonitrile | 185 mL | C(C)#N | C2H3N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine | COC=1C=C(CC2NCCCC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C21H27NO4
